US07973012B2
(2) Preparation of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-4-methyl-5-[4-[2-(tritylamino)ethyl]benzyl]phenyl]-D-glucitol
To an acetonitrile solution (6 mL) of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-[hydroxy[4-[2-(tritylamino)ethyl]phenyl]methyl]-4-methylphenyl]-D-glucopyranose (0.638 g, 0.565 mmol) were added under nitrogen atmosphere at 0° C. Et3SiH (0.27 mL, 1.695 mmol) and BF3.Et2O (1.58 mL, 1.24 mmol), and the mixture was stirred for 30 minutes at the same temperature. To the reaction solution cooled in ice was added a saturated sodium bicarbonate aqueous solution and the resulting mixture was extracted with ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain the title compound (0.402 g, 59%) as a pale yellow oily compound.

reactant | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-[hydroxy[4-[2-(tritylamino)ethyl]phenyl]methyl]-4-methylphenyl]-D-glucopyranose | 0.565 mmol, 0.638 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C(C1=CC=C(C=C1)CCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C)OCC1=CC=CC=C1 | C76H73NO8
reactant | Et3SiH | 1.695 mmol, 0.27 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 1.24 mmol, 1.58 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-4-methyl-5-[4-[2-(tritylamino)ethyl]benzyl]phenyl]-D-glucitol | 0.402 g, 59% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)OCC1=CC=CC=C1 | C76H73NO6
